US05807883
Under argon atmosphere and ice cooling, a solution of 16.5 g of triethylamine in 50 ml of methylene chloride was added dropwise to a stirred mixture of 15.05 g of 3-amino-2,3-dihydro-1H-indol-2-one hydrochloride and 17.20 g of 3,4-dichlorobenzoyl chloride suspended in 300 ml of methylene chloride. The mixture was stirred at room temperature for 30 minutes. The reaction mixture was treated with 100 ml of water, and the whole was stirred for additional 2 hours. The resulting precipitates were collected by filtration, washed and then recrystallized from dimethylformamide-water to afford 22.9 g of 3,4-dichloro-N-(2,3-dihydro-2-oxo-1H-indol-3-yl)benzamide as colorless needle crystals. Melting point: 283° to 285° C. (decomposed), IR (Nujol) (cm-1) : 3280, 3160, 3100, 1710, 1690, 1635, MS (m/z): 322 & 320 (M+), 147 (base).

reactant | triethylamine | 16.5 g | C(C)N(CC)CC | C6H15N
reactant | 3-amino-2,3-dihydro-1H-indol-2-one hydrochloride | 15.05 g | Cl.NC1C(NC2=CC=CC=C12)=O
reactant | 3,4-dichlorobenzoyl chloride | 17.20 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 3,4-dichloro-N-(2,3-dihydro-2-oxo-1H-indol-3-yl)benzamide | 22.9 g | ClC=1C=C(C(=O)NC2C(NC3=CC=CC=C23)=O)C=CC1Cl | C15H10Cl2N2O2
